US09169249B2
A toluene (12 ml) solution of (R)-2,2-difluoro-hexahydro-5,5-dimethylindolizin-7(1H)-one (487.8 mg, 2.4 mmol) and (S)-1-phenylethylamine (306 μL, 2.4 mmol) was heated under reflux in a flask equipped with a Dean-Stark distillation receiver. After 22 hours, most solvent was distilled off through Dean-Stark distillation receiver, and remaining solvent was removed in vacuo. Compound (1S)—N—((R)-2,2-difluoro-hexahydro-5,5-dimethylindolizin-7(1H)-ylidene)-1-phenylethanamine was obtained as a brown oil and was used directly in next reaction.

reactant | (R)-2,2-difluoro-hexahydro-5,5-dimethylindolizin-7(1H)-one | 2.4 mmol, 487.8 mg | FC1(C[C@H]2CC(CC(N2C1)(C)C)=O)F | C10H15F2NO
reactant | (S)-1-phenylethylamine | 2.4 mmol, 306 μL | C1(=CC=CC=C1)[C@H](C)N | C8H11N
solvent | toluene | 12 ml | C1(=CC=CC=C1)C | C7H8
product | (1S)—N—((R)-2,2-difluoro-hexahydro-5,5-dimethylindolizin-7(1H)-ylidene)-1-phenylethanamine | FC1(C[C@H]2CC(CC(N2C1)(C)C)=N[C@@H](C)C1=CC=CC=C1)F | C18H24F2N2
